US04434175
p-Chlorobenzoyl chloride (2.75 ml, 20 mmol), dissolved 20 ml of methylene chloride and 2.6 g (20 mmol) of aluminum chloride are mixed well at room temperature. After about 5 minutes 1.87 g (10 mmole) of 2-methoxycarbonyl-4-methylthio-1-methylpyrrole is added dropwise. The reaction mixture turns immediately into a dark red colored solution. The reaction is stirred for one hour before it is diluted with 75 ml of methylene chloride and extracted with water. The methylene chloride layer is separated, washed sucessively with 25 ml sodium bicarbonate solution and 50 ml of saturated brine, dried over anhydrous sodium sulfate and concentrated to an oil. The oil is crystallized from ethanol to give 1.0 g of 5-(p-chlorobenzoyl)-2-methoxycarbonyl-4-methylthio-1-methylpyrrole.

reactant | p-Chlorobenzoyl chloride | 20 mmol, 2.75 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | aluminum chloride | 20 mmol, 2.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methoxycarbonyl-4-methylthio-1-methylpyrrole | 10 mmole, 1.87 g | COC(=O)C=1N(C=C(C1)SC)C | C8H11NO2S
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-(p-chlorobenzoyl)-2-methoxycarbonyl-4-methylthio-1-methylpyrrole | 1.0 g | ClC1=CC=C(C(=O)C2=C(C=C(N2C)C(=O)OC)SC)C=C1 | C15H14ClNO3S
